US04306097
3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4,5-dimethylcycloheptanone
To a -78° C. solution of 30.4 g (0.050 mole) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1-dibromomethyl-4,5-dimethylcyclohexanol in 150 ml of tetrahydrofuran is slowly added over a period of 2 hours 47.7 ml (0.105 mole) of n-butyllithium (2.2 M in hexane). The reaction solution is stirred 2 hours longer at -78° C. and 10 minutes at 0° C. and then quenched by pouring into 300 ml of ice cold 1 N hydrochloric acid. The quenched reaction is extracted with two 250 ml portions of ether, the combined extract washed with 250 ml of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 500 g of silica gel eluted with ether-pentane to yield the title compound.

reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1-dibromomethyl-4,5-dimethylcyclohexanol | 0.050 mole, 30.4 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CC(C1C)C)(O)C(Br)Br | C31H44Br2O2
reactant | n-butyllithium | 0.105 mole, 2.2 M, 47.7 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4,5-dimethylcycloheptanone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CCC(C1C)C)=O | C31H44O2
